US20010021718A1
(3R)-3-{3-[(4-Chlorophenoxy)methyl]-1,2,4-oxadiazol-5-yl}-6-cyclohexylhexanoic acid
tert-Butyl (3R)-3-{3-[(4-chlorophenoxy)methyl]-1,2,4-oxadiazol-5-yl}6-cyclohexylhexanoate (Preparation 56) (215 mg, 0.46 mmol) was treated with trifluoroacetic acid (5 ml) and the resulting mixture was stirred at room temperature under a nitrogen atmosphere for 4 hours. The solvent was removed under reduced pressure and the residue azeotroped from toluene to afford the title compound (189 mg).

reactant | tert-Butyl (3R)-3-{3-[(4-chlorophenoxy)methyl]-1,2,4-oxadiazol-5-yl}6-cyclohexylhexanoate | 0.46 mmol, 215 mg | ClC1=CC=C(OCC2=NOC(=N2)[C@@H](CC(=O)OC(C)(C)C)CCCC2CCCCC2)C=C1 | C25H35ClN2O4
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (3R)-3-{3-[(4-Chlorophenoxy)methyl]-1,2,4-oxadiazol-5-yl}-6-cyclohexylhexanoic acid | 189 mg | ClC1=CC=C(OCC2=NOC(=N2)[C@@H](CC(=O)O)CCCC2CCCCC2)C=C1 | C21H27ClN2O4
